US04438128
1-Phenoxy-3-[2-(6-chloropyridazin-3-ylamino)-ethylamino]-propan-2-ol
A mixture of 3.0 g. 3,6-dichloropyridazine, 4.2 g. 1-phenoxy-3-(2-aminoethylamino)-propan-2-ol, 3.5 ml. N-ethyldiisopropylamine and 30 ml. toluene is stirred for 24 hours at 100° C. The reaction mixture is then evaporated and the residue is digested simultaneously with 100 ml. water and 100 ml. methylene chloride, followed by suction filtration and recrystallization from isopropyl alcohol, with treatment with fullers' earth. There are obtained 1.4 g. (21% of theory) of the desired product in the form of colorless crystals; m.p. 147°-149° C.

reactant | 3,6-dichloropyridazine | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | 1-phenoxy-3-(2-aminoethylamino)-propan-2-ol | O(C1=CC=CC=C1)CC(CNCCN)O | C11H18N2O2
reactant | N-ethyldiisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-Phenoxy-3-[2-(6-chloropyridazin-3-ylamino)-ethylamino]-propan-2-ol | O(C1=CC=CC=C1)CC(CNCCNC=1N=NC(=CC1)Cl)O | C15H19ClN4O2
